US07601716B2
4-(3-Chlorophenoxy)-6-[2-(4-methylpiperazin-1-yl)pyridin-4-yl]-1,2,3,4-tetrahydro-[1,8]naphthyridine
6-Bromo-4-(3-chlorophenoxy)-1,2,3,4-tetrahydro-[1,8]naphthyridine (20 mg) was reacted with 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine (25 mg) as in General Procedure 13. Silica gel chromatography using a gradient of 0-100% ethyl acetate/hexane as the eluting solvent gave the title compound as a white foam (36% yield). LCMS: m/z=436.06 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.0-2.11 (m, 1H), 2.24-2.40 (m, 1H), 2.35 (s, 3H), 2.54 (t, J=4.9 Hz, 4H), 3.4-3.51 (m, 1H), 3.57-3.68 (m, 5H), 5.27 (bs, 1H), 5.38 (t, J=3.4 Hz, 1H), 6.64 (s, 1H), 6.73 (dd, J=1.0 and 5.2 Hz, 1H), 6.90 (dd, J=2.2 and 8.3 Hz, 1H), 6.95-7.03 (m, 1H), 7.04-7.08 (m, 1H), 7.22-7.28 (m, 1H), 7.57 (d, J=1.9 Hz, 1H), 8.17 (d, J=5.2 Hz, 1H), 8.31 (d, J=2.2 Hz).

reactant | 6-Bromo-4-(3-chlorophenoxy)-1,2,3,4-tetrahydro-[1,8]naphthyridine | 20 mg | BrC=1C=C2C(CCNC2=NC1)OC1=CC(=CC=C1)Cl | C14H12BrClN2O
reactant | 1-methyl-4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine | 25 mg | CN1CCN(CC1)C1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-(3-Chlorophenoxy)-6-[2-(4-methylpiperazin-1-yl)pyridin-4-yl]-1,2,3,4-tetrahydro-[1,8]naphthyridine | 36% yield | ClC=1C=C(OC2CCNC3=NC=C(C=C23)C2=CC(=NC=C2)N2CCN(CC2)C)C=CC1 | C24H26ClN5O
